US08026375B2
Following the general procedure outlined above, a reaction tube was charged with 4.4 mg PdCl2 (5 mol %), 14.5 mg tBu3PHBF4 (10 mol %), 228.1 mg Cs2CO3 (1.4 equiv.) and 2.5 mL DMF. After stirring for 30 min at RT under a flow of argon, 1-chloro-2-phenylethynyl-benzene (106.3 mg, 1.0 equiv.) and N-phenylhydrazine carboxylic acid tert-butyl ester (145.8 mg, 1.4 equiv.) were added and the reaction was heated to 110° C. for 3 hours. After cooling to RT, the reaction mixture was quenched with 30 mL NaHCO3 (saturated aqueous) and extracted with EtOAc (2×30 mL) and the organic phase was dried by eluting through a Varian Chem Elut 12198007 cartridge. Removal of the solvents afforded the crude N-aminoindole as a dark-brown oil that was purified by flash chromatography on silica using CH2Cl2/heptane to afford 164.8 mg (86%) of Phenyl-(2-phenyl-indol-1-yl)-carbamic acid tert-butyl ester as a yellowish oil. 1H-NMR (DMSO-d6) δ 1.25 (s, 9H), 6.85 (s, 1H), 7.10-7.14 (m, 3H), 7.15-7.18 (m, 1H), 7.23 (d, 2H, J=4.0 Hz), 7.26-7.30 (m, 2H), 7.39-7.41 (m, 1H), 7.44 (t, J=7.2 Hz, 2H), 7.52 (d, 2H, J=7.9 Hz), 7.65 (d, 1H, J=7.8 Hz); 13C-NMR (DMSO-d6) δ 27.3, 82.5, 101.4, 109.2, 120.8, 121.0, 123.1, 125.3, 125.7, 127.4, 128.4, 128.7, 128.8, 130.5, 136.7, 139.7, 140.9, 152.0; HRMS (FAB): Calculated for C25H25N2O2 (M+H+) 385.1916. found 385.1917.

reactant | Cs2CO3 | 228.1 mg, 1.4 equiv. | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-chloro-2-phenylethynyl-benzene | 106.3 mg, 1.0 equiv. | ClC1=C(C=CC=C1)C#CC1=CC=CC=C1 | C14H9Cl
reactant | N-phenylhydrazine carboxylic acid tert-butyl ester | 145.8 mg, 1.4 equiv. | C(C)(C)(C)OC(=O)N(N)C1=CC=CC=C1 | C11H16N2O2
catalyst | PdCl2 | 4.4 mg | Cl[Pd]Cl
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
product | Phenyl-(2-phenyl-indol-1-yl)-carbamic acid tert-butyl ester | 164.8 mg, 86% | C(C)(C)(C)OC(N(N1C(=CC2=CC=CC=C12)C1=CC=CC=C1)C1=CC=CC=C1)=O | C25H24N2O2
